US06831081B2
2-Furyl(pyrrolidin-2-yl)methanol.
N-Boc-pyrrolidine (5.0 g) is dissolved in diethyl ether (60 mL) and the solution is cooled to −78° C. N,N,N′,N′-Tetramethylethylenediamine (TMEDA) (4.4 mL) is added to the mixture followed by sec-butyl lithium (27.0 mL, 1.3 M in cyclohexane) maintaining the temperature below −60° C. After 2 h, 2-furaldehyde (2.9 mL) is added and the mixture is stirred at −70° C. for an additional 30 min. The reaction mixture is allowed to warm to room temperature and is then quenched with water (25 mL) and poured into EtOAc (200 mL). The separated organic layer is washed with saturated aq. ammonium chloride (3×50 mL) followed by brine (50 mL), dried (MgSO4), and concentrated The crude product is purified by column chromatography (heptane/EtOAc, 8/1; 5/1) to afford 4.97 g of 2-furyl(N-Boc-pyrrolidin-2-yl)methanol as a mixture of diastereomers. The resulting 2-furyl(N-Boc-pyrrolidin-2-yl)methanol (4.43 g) is dissolved in dichloromethane (200 mL) and trifluoroacetic acid (30 mL) is added. The mixture is poured into a 1 M solution of sodium hydroxide. The organic layer is separated and washed with saturated aq. sodium bicarbonate (2×100 mL). The aqueous layers are extracted with dichloromethane (4×50 mL) and the combined organic layers are concentrated. The crude product is purified by column chromatography (CH2Cl2/methanol/NH4OH, 95/5/1; 90/10/1). The resulting oil is distilled in a Kugelrohr apparatus (0.175-200° C., 0.2 Torr) to afford 0.20 g of the title compound as a mixture of diastereomers. Physical characteristics. MS (ESI+) m/z 168 (M+H)+.

reactant | 2-furyl(N-Boc-pyrrolidin-2-yl)methanol | 4.43 g | O1C(=CC=C1)C(O)C1N(CCC1)C(=O)OC(C)(C)C | C14H21NO4
reactant | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-Furyl(pyrrolidin-2-yl)methanol | 0.20 g | O1C(=CC=C1)C(O)C1NCCC1 | C9H13NO2
